US07671063B2
A mixture of 2-methoxy-6-nitro-benzenesulfonyl chloride (12.8 g, 50.87 mmol) and 25% ammonium hydroxide is swirled at 65° C. on a rotavap. After 15 min the volume of the resulting solution is reduced to half by evaporation of volatiles at reduced pressure. Collecting the precipitate by filtration after cooling gives 2-methoxy-6-nitro-benzenesulfonamide.

reactant | 2-methoxy-6-nitro-benzenesulfonyl chloride | 50.87 mmol, 12.8 g | COC1=C(C(=CC=C1)[N+](=O)[O-])S(=O)(=O)Cl | C7H6ClNO5S
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 2-methoxy-6-nitro-benzenesulfonamide | COC1=C(C(=CC=C1)[N+](=O)[O-])S(=O)(=O)N | C7H8N2O5S
